US05708130
2,7-Dichloro-9,9-di(1-hexyl)fluorene was prepared from 2,7-dichlorofluorene and 1-bromohexane following the procedure of Example 1 as colorless crystals (recrystallized from hexane) in 91 percent yield; melting point 66° C. to 67° C. HPLC analysis showed that the sample was 99 percent or greater pure and the spectral data confirmed the title structure.

reactant | 2,7-dichlorofluorene | ClC1=CC=2CC3=CC(=CC=C3C2C=C1)Cl | C13H8Cl2
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
product | 2,7-Dichloro-9,9-di(1-hexyl)fluorene | 91 percent yield | ClC1=CC=2C(C3=CC(=CC=C3C2C=C1)Cl)(CCCCCC)CCCCCC | C25H32Cl2
